US08258134B2
A solution of 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-propionic acid methyl ester (1.76 g, 5.85 mmol) in methanol (3.9 mL, 1.5M) was treated with a 4N aqueous sodium hydroxide solution (1.61 mL, 6.44 mmol) and stirred at 25° C. for 4 h. At this time, the reaction was concentrated in vacuo. The residue was diluted with water (100 mL) and was acidified with a 2N aqueous hydrochloric acid solution and then extracted with a solution of 90/10 methylene chloride/methanol (3×100 mL). The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-propionic acid (1.58 g, 94%) as a white solid; ES+-HRMS m/e calcd for C16H18N2O3 [M+H+] 287.1390, found 287.1390.

reactant | 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-propionic acid methyl ester | 5.85 mmol, 1.76 g | COC(C(CC1CCCC1)N1C(C2=CC=CC=C2C=N1)=O)=O | C17H20N2O3
reactant | sodium hydroxide | 6.44 mmol, 4N, 1.61 mL | [OH-].[Na+]
solvent | methanol | 1.5M, 3.9 mL | CO | CH4O
product | 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-propionic acid | 1.58 g, 94% | C1(CCCC1)CC(C(=O)O)N1C(C2=CC=CC=C2C=N1)=O | C16H18N2O3
